US05273975
2-Methyl-6-nitroaniline (15.2 g, 0.1 mol) was dissolved by heating in ethanol (150 mL). The solution was cooled, 10% palladium on carbon (1.0 g) was added and the solution was hydrogenated (50 lb initial hydrogen pressure) until uptake of hydrogen ceased (1 hour). The catalyst was filtered off and the ethanol was removed under reduced pressure to give 11.9 g (98%) of 3-methyl-1,2-benzenediamine as a solid which was used without purification.

reactant | 2-Methyl-6-nitroaniline | 0.1 mol, 15.2 g | CC1=C(N)C(=CC=C1)[N+](=O)[O-] | C7H8N2O2
reactant | hydrogen | 50 lb | [H][H] | H2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 3-methyl-1,2-benzenediamine | 11.9 g, 98% | CC1=C(C(=CC=C1)N)N | C7H10N2
